US05521173
10,11-Dihydro-10-[4-(3,5-difluorophenyl)benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 1.5 g of 10,11-dihydro-10-[4-(tributylstannyl)benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 1 ml of 3,5-difluoro-1-bromobenzene and 200 mg of tetrakis(triphenylphosphine)palladium(O) in 200 ml of toluene is refluxed for 16 hours. The reaction mixture is filtered and the filtrate evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 30% ethyl acetate-hexane to give 700 mg of the desired product as a solid. Mass spectrum: M+H:401.

reactant | 10,11-dihydro-10-[4-(tributylstannyl)benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.5 g | C(CCC)[Sn](C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)(CCCC)CCCC
reactant | 3,5-difluoro-1-bromobenzene | 1 ml | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(O) | 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 10,11-Dihydro-10-[4-(3,5-difluorophenyl)benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 700 mg | FC=1C=C(C=C(C1)F)C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C25H18F2N2O
